US05919793
4-bromophenethyl bromide (4.0 g) was added in a dropwise manner to a cooled solution of methoxyethanol (50 ml) and mercury II perchlorate (prepared from 3.39 g of mercury II oxide and 4.71 g of 60% perchloric acid). The mixture was stirred overnight at ambient temperature. Saturated brine (80 ml) was added, the mercury salts removed by filtration and washed with ether. The filtrate was extracted with ether (3×100 ml). The ether extracts were combined, washed with water (20 ml), saturated brine (20 ml), dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel using 10% ethyl acetate in toluene as eluent to give 1-(-4-bromophenethyloxy)-2-methoxyethane (2.2 g) as a colourless oil; NMR(CDCl3): 2.8-2.9(2H,t), 3.4(3H,s), 3.5-3.6(4H,m), 3.6-3.75(2H,t 7.05-7.15(2H,d) and 7.35-7.45(2H,d).

reactant | 4-bromophenethyl bromide | 4.0 g | BrC1=CC=C(CCBr)C=C1 | C8H8Br2
reactant | methoxyethanol | 50 ml | COC(C)O | C3H8O2
reactant | brine | 80 ml | [Cl-].[Na+].O
product | 1-(-4-bromophenethyloxy)-2-methoxyethane | 2.2 g | BrC1=CC=C(CCOCCOC)C=C1 | C11H15BrO2
